US09034900B2
Step 4: N-[6-(2,4-difluorophenoxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl]ethanesulfonamide
Ethylsulfonyl chloride (50 uL, 52 mmol) was added to a stirred solution of 6-(2,4-difluorophenoxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-amine (163 mg, 0.5 mmol) and pyridine (113 uL) in DCM (2.4 mL) at 0° C. under nitrogen. After the mixture was allowed to warm to rt and stir for 12 h, it was treated with water (15 mL) and extracted with DCM (3×15 mL); the combined organic extracts were washed with saturated bicarbonate solution (aq), dried over sodium sulfate, filtered and concentrated in vacuo. The resulting residue was purified by silica gel column chromatography using a gradient of EtOAc (0 to 100%) in DCM to afford the title compound (181 mg, 88%) as a tan solid. LCMS (M+H)+=441.

reactant | Ethylsulfonyl chloride | 52 mmol, 50 uL | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | 6-(2,4-difluorophenoxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-amine | 0.5 mmol, 163 mg | FC1=C(OC2=C(C=C(C=N2)N)B2OC(C(O2)(C)C)(C)C)C=CC(=C1)F | C17H19BF2N2O3
reactant | pyridine | 113 uL | N1=CC=CC=C1 | C5H5N
reactant | water | 15 mL | O | H2O
solvent | DCM | 2.4 mL | C(Cl)Cl | CH2Cl2
product | N-[6-(2,4-difluorophenoxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl]ethanesulfonamide | 181 mg, 88% | FC1=C(OC2=C(C=C(C=N2)NS(=O)(=O)CC)B2OC(C(O2)(C)C)(C)C)C=CC(=C1)F | C19H23BF2N2O5S
